US04760163
27.4 g of isopropyl 2-chloro-4-fluoro-5-ureidobenzoate and 13.0 g of methyl 3-methoxy-2-methyl-acrylate are heated under reflux for 2 hours in 250 ml of benzene with 1.9 g of toluene-4-sulphonic acid monohydrate. The reaction mixture is evaporated to dryness under reduced pressure and the residue is stirred with 400 ml of diethyl ether. The insoluble material is filtered off under suction and the filtrate is evaporated to dryness under reduced pressure. The residue is purified by chromatography on 1 kg of silica gel using ethyl acetate/n-hexane (1:3) as the eluent. There is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(methoxycarbonyl)propenyl]ureido}-benzoate, m.p. 189°-190° C.

reactant | isopropyl 2-chloro-4-fluoro-5-ureidobenzoate | 27.4 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)N | C11H12ClFN2O3
reactant | methyl 3-methoxy-2-methyl-acrylate | 13.0 g | COC=C(C(=O)OC)C | C6H10O3
reactant | toluene-4-sulphonic acid monohydrate | 1.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(methoxycarbonyl)propenyl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC=C(C)C(=O)OC | C16H18ClFN2O5
